US04670604
1.0 g of Raney nickel is added to a solution of 3.7 g of 3-[3-(4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy)-propoxy]-4-chloro-6-methyl-nitrobenzene in 40 ml of tetrahydrofuran and the starting substance is hydrogenated at room temperature. The catalyst is filtered off and washed with tetrahydrofuran. The filtrate is evaporated to dryness under reduced pressure and the residue is crystallised from ether/petroleum ether. 3-{3-[4-Acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-4-chloro-6-methyl-aniline of melting point 111°-113° is thus obtained.

reactant | 3-[3-(4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy)-propoxy]-4-chloro-6-methyl-nitrobenzene | 3.7 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C(=CC2Cl)C)[N+](=O)[O-])C=C1)CCC(F)(F)F)O | C21H21ClF3NO6
catalyst | Raney nickel | 1.0 g | [Ni] | Ni
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-{3-[4-Acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-4-chloro-6-methyl-aniline | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(N)C(=CC2Cl)C)C=C1)CCC(F)(F)F)O | C21H23ClF3NO4
